************************************************************************
* auCdl Netlist:
* 
* Library Name:  REF_GEN
* Top Cell Name: LS2
* View Name:     schematic
* Netlisted on:  Jul  8 12:14:19 2026
************************************************************************

.INCLUDE  /opt/pdk/lf11/PDK_LF11ISi_V1_3_2/tools/setup/subckt.cdl
*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: AnaCommon
* Cell Name:    LS
* View Name:    schematic
************************************************************************

.SUBCKT LS IN OUT VDD VDDD VSS VSSD OUTN
*.PININFO IN:I OUT:O OUTN:O VDD:B VDDD:B VSS:B VSSD:B
MM1 OUT net5 VSS VSS nmos1v2hvt W=260n L=110n m=1 nf=1
MM0 OUTN IN VSS VSS nmos1v2hvt W=260n L=110n m=1 nf=1
MM34 net5 IN VSSD VSSD nmos1v2hvt W=260n L=180n m=1 nf=1
MM3 OUTN OUT VDD VDD pmos1v2hvt W=150n L=1.97u m=1 nf=1
MM2 OUT OUTN VDD VDD pmos1v2hvt W=150n L=1.97u m=1 nf=1
MM36 net5 IN VDDD VDDD pmos1v2hvt W=260n L=180n m=1 nf=1
.ENDS

************************************************************************
* Library Name: REF_GEN
* Cell Name:    LS2
* View Name:    schematic
************************************************************************

.SUBCKT LS2 GNDA GNDD IN0 IN1 OUT0 OUT1 VDDA VDDD
*.PININFO GNDA:B GNDD:B IN0:B IN1:B OUT0:B OUT1:B VDDA:B VDDD:B
XI1 IN1 OUT1 VDDA VDDD GNDA GNDD net12 / LS
XI0 IN0 OUT0 VDDA VDDD GNDA GNDD net6 / LS
.ENDS

